US07553854B2
(S)-tert-butyl 3-(6-(2-(methylcarbamoyl)pyridin-4-yloxy)benzo[d]thiazol-2-ylamino)piperidine-1-carboxylate (56 mg, 0.12 mmol) was dissolved in 4 ml of 4M HCl in dioxane (16 mmol). The reaction solution was stirred at room temperature for 1 hour. The crude reaction solution was evaporated in vacuo to give (S)—N-methyl-4-(2-(piperidin-3-ylamino)benzo[d]thiazol-6-yloxy)picolinamide (46 mg, 0.12 mmol) as white solid. ES/MS m/z 384.0 (MH+).

reactant | (S)-tert-butyl 3-(6-(2-(methylcarbamoyl)pyridin-4-yloxy)benzo[d]thiazol-2-ylamino)piperidine-1-carboxylate | 0.12 mmol, 56 mg | CNC(=O)C1=NC=CC(=C1)OC1=CC2=C(N=C(S2)N[C@@H]2CN(CCC2)C(=O)OC(C)(C)C)C=C1 | C24H29N5O4S
reactant | dioxane | 16 mmol | O1CCOCC1 | C4H8O2
solvent | HCl | 4M, 4 ml | Cl | ClH
product | (S)—N-methyl-4-(2-(piperidin-3-ylamino)benzo[d]thiazol-6-yloxy)picolinamide | 0.12 mmol, 46 mg | CNC(C1=NC=CC(=C1)OC1=CC2=C(N=C(S2)N[C@@H]2CNCCC2)C=C1)=O | C19H21N5O2S
